US08754089B2
A suspension of 3-(3,5-difluorophenyl)-2-ethyl-6-fluoroquinolin-4(1H)-one (280 mg, 0.9 mmol) in DMF (5 mL) was treated with NaH (60%, 1.5 eq, 55.3 mg). After 30 min, MeI (0.12 mL, 2.0 eq) was added dropwise and the reaction mixture was stirred at rt overnight before quenching with water. The reaction mixture was extracted with EtOAc (5 mL×2). The organic layers were combined washed with water, brine, dried, concd and purified by column chromatography on silica gel (EtOAc/hexane, 1/2) to give 3-(3,5-difluorophenyl)-2-ethyl-6-fluoro-1-methylquinolin-4(1H)-one as a white solid. Mass Spectrum (ESI) m/e=318 (M+1).

reactant | 3-(3,5-difluorophenyl)-2-ethyl-6-fluoroquinolin-4(1H)-one | 0.9 mmol, 280 mg | FC=1C=C(C=C(C1)F)C1=C(NC2=CC=C(C=C2C1=O)F)CC | C17H12F3NO
reactant | NaH | 55.3 mg, 1.5 eq | [H-].[Na+]
reactant | MeI | 0.12 mL, 2.0 eq | CI | CH3I
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 3-(3,5-difluorophenyl)-2-ethyl-6-fluoro-1-methylquinolin-4(1H)-one | FC=1C=C(C=C(C1)F)C1=C(N(C2=CC=C(C=C2C1=O)F)C)CC | C18H14F3NO
